US05155268
N-Ethyl-N-heptyl-4-nitrophenylacetamide, Chart IV; Step I
A mixture of p-nitrophenylacetic acid (7.14 g, 0.0394 mol), ethylheptylamine (5.64 g, 0.0394 mol) and 1-hydroxybenzotriazole (6.0 g, 0.044 mol) in 35 ml of dimethylformamide (DMF), under nitrogen, is cooled in an ice bath. The mixture is then treated with the 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC) (7.68 g, 0.04 mol) in portions over 15 min. The mixture is stirred in the cold for 1 hr and at room temperature overnight. The mixture is diluted with 400 ml of ethyl acetate and washed twice with saturated NaHCO3. (Each wash is back extracted with ethyl acetate.) The pooled organic extract is washed sequentially with water (50 ml), 1N KHSO4 solution (3×50 ml), water (50 ml) and finally brine (50 ml). It is dried (Na2SO4) and concentrated in vacuo to yield the title compound. This residue is treated with Et2O-pentane, a solid filtered off and the filtrate concentrated in vacuo. The residue is chromatographed over 1400 ml of silica gel with 25% EtOAc-SSB with 42 ml fractions being collected. Fractions at approximately 70-104 yield the title compound as an oil.

reactant | p-nitrophenylacetic acid | 0.0394 mol, 7.14 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | ethylheptylamine | 0.0394 mol, 5.64 g | C(C)NCCCCCCC | C9H21N
reactant | 1-hydroxybenzotriazole | 0.044 mol, 6.0 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.04 mol, 7.68 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | N-Ethyl-N-heptyl-4-nitrophenylacetamide | C(C)N(C(CC1=CC=C(C=C1)[N+](=O)[O-])=O)CCCCCCC | C17H26N2O3
